data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC(C)C_2-c1ccccc1C_3-C(C(F)(F)F)C(F)(F)F_4-c1ccc(C#N)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC(C)CC(=O)[H]","c1ccccc1COC(=O)CP(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC(C)C/C=C\\C(=O)Oc1ccccc1C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1COC(=O)[CH-]P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C(P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1))C([O-])CC(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C1C(CC(C)C)OP1([O-])(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)C/C=C\\C(=O)Oc1ccccc1C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-331_1-C(C)(C)C_2-C_3-CC_4-c1ccc(Cl)cc1_5-C","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(C)(CC)C(=O)OC(C)(C)C","O=C(c1ccc(Cl)cc1)C","[Zn]"],"products_smiles": ["C(C(O)(c1ccc(Cl)cc1)C)(C)(CC)C(=O)OC(C)(C)C"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(C)COC(=O)C(C)(CC)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1ccc(Cl)cc1)C)(C)(CC)C(=O)OC(C)(C)C.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1ccc(Cl)cc1)C)(C)(CC)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
